** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelDown.sch
.subckt sg13g2_LevelDown iovdd iovss pad core vdd vss sub
*.PININFO iovdd:B vss:B core:B pad:B vdd:B iovss:B sub:B
R1 vss sub ptap1 A=2.019p P=14.06u
M5 net2 net1 vdd vdd sg13_hv_pmos w=4.65u l=0.45u ng=1 m=1
M6 net2 net1 vss sub sg13_hv_nmos w=2.65u l=0.45u ng=1 m=1
M7 core net2 vss sub sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
M8 core net2 vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
x1 net1 iovdd iovss pad sub sg13g2_SecondaryProtection
.ends

* expanding   symbol:  sg13g2_SecondaryProtection.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_SecondaryProtection.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_SecondaryProtection.sch
.subckt sg13g2_SecondaryProtection core iovdd iovss pad sub
*.PININFO iovss:B core:B pad:B iovdd:B sub:B
R1 iovss sub ptap1 A=9.0304p P=53.12u
D1 core iovdd dpantenna l=4.98u w=0.64u
R2 core pad rppd w=1e-6 l=2e-6 m=1 b=0
D2 sub core dantenna l=3.1u w=0.64u
.ends

