** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_SecondaryProtection.sch
.subckt sg13g2_SecondaryProtection core iovdd iovss pad sub
*.PININFO iovss:B core:B pad:B iovdd:B sub:B
R1 iovss sub ptap1 A=9.0304p P=53.12u
D1 core iovdd dpantenna l=4.98u w=0.64u
R2 core pad rppd w=1e-6 l=2e-6 m=1 b=0
D2 sub core dantenna l=3.1u w=0.64u
.ends
